US04371700
14 g (0.048 mol) of 1-(4-chlorophenoxy)-3,3-dimethyl-1-(imidazol-1-yl)-butan-2-one and 61.8 g (0.143 mol) of formic acid/triethylamine (5:2 addition compound) were heated at 145° C. for 4 hours. The reaction mixture was allowed to cool and was concentrated in vacuo. The residue was taken up in dilute sodium hydroxide solution and the mixture was extracted with methylene chloride. The organic phase was washed with water, dried over sodium sulphate and concentrated in vacuo. The residue was suspended in hot cyclohexane, the suspension was filtered hot and the solid was dried. 7.9 g (56% of theory) of 1-(4-chlorophenoxy)-3,3-dimethyl-1-(imidazol-1-yl)-butan-2-ol of melting point 145°-147° C. were obtained.

reactant | 1-(4-chlorophenoxy)-3,3-dimethyl-1-(imidazol-1-yl)-butan-2-one | 0.048 mol, 14 g | ClC1=CC=C(OC(C(C(C)(C)C)=O)N2C=NC=C2)C=C1 | C15H17ClN2O2
reactant | formic acid triethylamine | 0.143 mol, 61.8 g | C(=O)O.C(C)N(CC)CC
product | 1-(4-chlorophenoxy)-3,3-dimethyl-1-(imidazol-1-yl)-butan-2-ol | 7.9 g, 56% | ClC1=CC=C(OC(C(C(C)(C)C)O)N2C=NC=C2)C=C1 | C15H19ClN2O2
